// Generated for: spectre
// Generated on: Jul  1 14:21:28 2019
// Design library name: POSH_TI_SAR_Parameterized_1
// Design cell name: tb_chip_core_2
// Design view name: schematic
simulator lang=spectre
global 0
parameters C=1.5p dif_pair=530n inv=160n inv_comp=190n latch_comp=177n \
    nand_comp=191n nand_w=160n nor_w=286n reset_comp=180n switch=1.06u \
    fs=150M fin=31/64*fs
include "/home/qiaochuz/workarea_ee536a/Techfile_45nm.scs"

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: inverter
// View name: schematic
subckt inverter_schematic VDD VIN VOUT VSS
    M0 (VOUT VIN VSS VSS) nmos w=inv l=45n m=10
    M1 (VOUT VIN VDD VDD) pmos w=26/9*inv l=45n m=10
ends inverter_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: buffer
// View name: schematic
subckt buffer_schematic VDD VIN VOUT VSS
    M2 (VOUT net40 VSS VSS) nmos w=900.0n l=45n m=10
    M0 (net40 VIN VSS VSS) nmos w=900.0n l=45n m=10
    M3 (VOUT net40 VDD VDD) pmos w=900n l=45n m=35
    M1 (net40 VIN VDD VDD) pmos w=900n l=45n m=35
ends buffer_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: NAND2
// View name: schematic
subckt NAND2_schematic A B VDD VSS D
    M1 (net7 B VSS VSS) nmos w=nand_w l=45n m=20
    M0 (D A net7 VSS) nmos w=nand_w l=45n m=20
    M3 (D B VDD VDD) pmos w=26/9*nand_w l=45n m=10
    M2 (D A VDD VDD) pmos w=26/9*nand_w l=45n m=10
ends NAND2_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: DFF_reset
// View name: schematic
subckt DFF_reset_schematic CLK D Q Qbar VDD VSS R
    I12 (net015 net014 VDD VSS net011) NAND2_schematic
    I11 (net014 net026 VDD VSS net010) NAND2_schematic
    I9 (net019 net023 VDD VSS net015) NAND2_schematic
    I8 (net022 net010 VDD VSS net023) NAND2_schematic
    I5 (net011 D VDD VSS net022) NAND2_schematic
    I3 (Qbar net010 VDD VSS Q) NAND2_schematic
    I2 (net011 Q VDD VSS Qbar) NAND2_schematic
    I6 (net019 net013 VDD VSS net014) NAND2_schematic
    I10 (VDD net015 net026 VSS) inverter_schematic
    I7 (VDD R net019 VSS) inverter_schematic
    I13 (VDD CLK net013 VSS) inverter_schematic
ends DFF_reset_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: NOR3
// View name: schematic
subckt NOR3_schematic A B C D VDD VSS
    M4 (D C VSS VSS) nmos w=nor_w l=45n m=10
    M0 (D B VSS VSS) nmos w=nor_w l=45n m=10
    M1 (D A VSS VSS) nmos w=nor_w l=45n m=10
    M5 (D C net23 VDD) pmos w=26/9*nor_w l=45n m=30
    M3 (net23 B net24 VDD) pmos w=26/9*nor_w l=45n m=30
    M2 (net24 A VDD VDD) pmos w=26/9*nor_w l=45n m=30
ends NOR3_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: async_logic
// View name: schematic
subckt async_logic_schematic CLK\<0\> CLK\<1\> CLK\<2\> CLK\<3\> CLK\<4\> \
        CLK\<5\> CLK\<6\> CLK\<7\> CLKC CLKS RDY VDD VSS
    I20 (VDD net01 net016 VSS) inverter_schematic
    I21 (VDD net016 CLKC VSS) buffer_schematic
    I9 (RDY CLK\<6\> CLK\<7\> net5 VDD VSS CLKS) DFF_reset_schematic
    I8 (RDY CLK\<5\> CLK\<6\> net12 VDD VSS CLKS) DFF_reset_schematic
    I7 (RDY CLK\<4\> CLK\<5\> net19 VDD VSS CLKS) DFF_reset_schematic
    I6 (RDY CLK\<3\> CLK\<4\> net26 VDD VSS CLKS) DFF_reset_schematic
    I5 (RDY CLK\<2\> CLK\<3\> net33 VDD VSS CLKS) DFF_reset_schematic
    I4 (RDY CLK\<1\> CLK\<2\> net40 VDD VSS CLKS) DFF_reset_schematic
    I2 (RDY VDD CLK\<0\> net52 VDD VSS CLKS) DFF_reset_schematic
    I3 (RDY CLK\<0\> CLK\<1\> net47 VDD VSS CLKS) DFF_reset_schematic
    I19 (CLKS RDY CLK\<7\> net01 VDD VSS) NOR3_schematic
ends async_logic_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: Latch
// View name: schematic
subckt Latch_schematic CLK D Q Qbar VDD VSS
    I3 (Q net010 VDD VSS Qbar) NAND2_schematic
    I2 (net011 Qbar VDD VSS Q) NAND2_schematic
    I1 (CLK net13 VDD VSS net010) NAND2_schematic
    I0 (D CLK VDD VSS net011) NAND2_schematic
    I4 (VDD D net13 VSS) inverter_schematic
ends Latch_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: DFF
// View name: schematic
subckt DFF_schematic CLK D Q Qbar VDD VSS
    I7 (VDD CLK net012 VSS) inverter_schematic
    I6 (CLK net013 Q Qbar VDD VSS) Latch_schematic
    I5 (net012 D net013 net014 VDD VSS) Latch_schematic
ends DFF_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: DAC_ctrl_logic
// View name: schematic
subckt DAC_ctrl_logic_schematic B CLK OUT V2DAC VDD VREF VSS
    I5 (VDD net015 net9 VSS) inverter_schematic
    I4 (VDD CLK net7 VSS) buffer_schematic
    I0 (CLK OUT B net11 VDD VSS) DFF_schematic
    I2 (B net7 VDD VSS net015) NAND2_schematic
    M0 (V2DAC net9 VSS VSS) nmos w=900.0n l=45n m=10
    M1 (V2DAC net9 VREF VREF) pmos w=900n l=45n m=35
ends DAC_ctrl_logic_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: SAR_logic
// View name: schematic
subckt SAR_logic_schematic B\<0\> B\<1\> B\<2\> B\<3\> B\<4\> B\<5\> \
        B\<6\> B\<7\> Bbar\<0\> Bbar\<1\> Bbar\<2\> Bbar\<3\> Bbar\<4\> \
        Bbar\<5\> Bbar\<6\> Bbar\<7\> CLKC CLKS OUT_N OUT_P RDY \
        V2DAC_N\<0\> V2DAC_N\<1\> V2DAC_N\<2\> V2DAC_N\<3\> V2DAC_N\<4\> \
        V2DAC_N\<5\> V2DAC_N\<6\> V2DAC_N\<7\> V2DAC_P\<0\> V2DAC_P\<1\> \
        V2DAC_P\<2\> V2DAC_P\<3\> V2DAC_P\<4\> V2DAC_P\<5\> V2DAC_P\<6\> \
        V2DAC_P\<7\> VDD VREF VSS CLK\<0\> CLK\<1\> CLK\<2\> CLK\<3\> \
        CLK\<4\> CLK\<5\> CLK\<6\> CLK\<7\>
    I0 (CLK\<0\> CLK\<1\> CLK\<2\> CLK\<3\> CLK\<4\> CLK\<5\> CLK\<6\> \
        CLK\<7\> CLKC CLKS RDY VDD VSS) async_logic_schematic
    I10\<0\> (Bbar\<0\> CLK\<0\> OUT_N V2DAC_N\<0\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<1\> (Bbar\<1\> CLK\<1\> OUT_N V2DAC_N\<1\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<2\> (Bbar\<2\> CLK\<2\> OUT_N V2DAC_N\<2\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<3\> (Bbar\<3\> CLK\<3\> OUT_N V2DAC_N\<3\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<4\> (Bbar\<4\> CLK\<4\> OUT_N V2DAC_N\<4\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<5\> (Bbar\<5\> CLK\<5\> OUT_N V2DAC_N\<5\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<6\> (Bbar\<6\> CLK\<6\> OUT_N V2DAC_N\<6\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I10\<7\> (Bbar\<7\> CLK\<7\> OUT_N V2DAC_N\<7\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<0\> (B\<0\> CLK\<0\> OUT_P V2DAC_P\<0\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<1\> (B\<1\> CLK\<1\> OUT_P V2DAC_P\<1\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<2\> (B\<2\> CLK\<2\> OUT_P V2DAC_P\<2\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<3\> (B\<3\> CLK\<3\> OUT_P V2DAC_P\<3\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<4\> (B\<4\> CLK\<4\> OUT_P V2DAC_P\<4\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<5\> (B\<5\> CLK\<5\> OUT_P V2DAC_P\<5\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<6\> (B\<6\> CLK\<6\> OUT_P V2DAC_P\<6\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
    I2\<7\> (B\<7\> CLK\<7\> OUT_P V2DAC_P\<7\> VDD VREF VSS) \
        DAC_ctrl_logic_schematic
ends SAR_logic_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: clk_doubler
// View name: schematic
subckt clk_doubler_schematic VDD VIN VOUT VSS
    C1 (VOUT net5) capacitor c=2.5p m=3 ic=0
    C0 (VOUTb VIN) capacitor c=2.5p m=3 ic=0
    M0 (VDD VOUTb VOUT VSS) nmos w=600.0n l=45n m=10
    M18 (VDD VOUT VOUTb VSS) nmos w=600.0n l=45n m=10
    I0 (VDD VIN net5 VSS) inverter_schematic
ends clk_doubler_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: bootstrap
// View name: schematic
subckt bootstrap_schematic OUT VDD VSS clk clkb clkb_high IN
    M10 (net01 clk IN VSS) nmos w=900n l=45n m=20
    M11 (net012 clk IN VSS) nmos w=900.0n l=45n m=40
    M6 (VSS clkb net011 VSS) nmos w=900.0n l=45n m=1
    M4 (OUT net011 IN VSS) nmos w=switch l=45n m=10
    M1q (net01 clkb VSS VSS) nmos w=900.0n l=45n m=50
    M0 (VDD clkb_high net8 VSS) nmos w=900.0n l=45n m=1
    C0 (net8 net01) capacitor c=20p ic=1.1
    M12 (IN clkb net01 VDD) pmos w=900n l=45n m=20
    M7 (IN clkb net012 VDD) pmos w=900.0n l=45n m=40
    M13 (net012 clk VDD VDD) pmos w=900.0n l=45n m=20
    M2 (net011 net012 net8 net8) pmos w=900n l=45n m=1
ends bootstrap_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: bootstrap_diff
// View name: schematic
subckt bootstrap_diff_schematic CLK CLKbar INN INP VDD VOUTN VOUTP VSS
    I18 (VDD CLK net6 VSS) clk_doubler_schematic
    I19 (VDD CLK net5 VSS) clk_doubler_schematic
    I14 (VOUTP VDD VSS CLK CLKbar net6 INP) bootstrap_schematic
    I10 (VOUTN VDD VSS CLK CLKbar net5 INN) bootstrap_schematic
ends bootstrap_diff_schematic
// End of subcircuit definition.

// Library name: EE536b
// Cell name: CDAC
// View name: schematic
subckt CDAC S\<0\> S\<1\> S\<2\> S\<3\> S\<4\> S\<5\> S\<6\> S\<7\> TOP \
        ground
    C10 (TOP ground) capacitor c=C/256
    C7 (TOP S\<7\>) capacitor c=C/256
    C6 (TOP S\<6\>) capacitor c=C/128
    C5 (TOP S\<5\>) capacitor c=C/64
    C4 (TOP S\<4\>) capacitor c=C/32
    C3 (TOP S\<3\>) capacitor c=C/16
    C2 (TOP S\<2\>) capacitor c=C/8
    C1 (TOP S\<1\>) capacitor c=C/4
    C0 (TOP S\<0\>) capacitor c=C/2
ends CDAC
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: SH
// View name: schematic
subckt SH_schematic CLK CLKbar INN INP OUTN OUTP V2DAC_N\<0\> V2DAC_N\<1\> \
        V2DAC_N\<2\> V2DAC_N\<3\> V2DAC_N\<4\> V2DAC_N\<5\> V2DAC_N\<6\> \
        V2DAC_N\<7\> V2DAC_P\<0\> V2DAC_P\<1\> V2DAC_P\<2\> V2DAC_P\<3\> \
        V2DAC_P\<4\> V2DAC_P\<5\> V2DAC_P\<6\> V2DAC_P\<7\> VDD VSS
    I0 (CLK CLKbar INN INP VDD OUTN OUTP VSS) bootstrap_diff_schematic
    I4 (V2DAC_N\<0\> V2DAC_N\<1\> V2DAC_N\<2\> V2DAC_N\<3\> V2DAC_N\<4\> \
        V2DAC_N\<5\> V2DAC_N\<6\> V2DAC_N\<7\> OUTN VSS) CDAC
    I3 (V2DAC_P\<0\> V2DAC_P\<1\> V2DAC_P\<2\> V2DAC_P\<3\> V2DAC_P\<4\> \
        V2DAC_P\<5\> V2DAC_P\<6\> V2DAC_P\<7\> OUTP VSS) CDAC
ends SH_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: NAND2_comp
// View name: schematic
subckt NAND2_comp A B VDD VSS D
    M1 (net7 B VSS VSS) nmos w=nand_comp l=45n m=20
    M0 (D A net7 VSS) nmos w=nand_comp l=45n m=20
    M3 (D B VDD VDD) pmos w=26/9*nand_comp l=45n m=10
    M2 (D A VDD VDD) pmos w=26/9*nand_comp l=45n m=10
ends NAND2_comp
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: comparator_p
// View name: schematic
subckt comparator_p_schematic CLKC RDY VDD VINN VINP VOUTN VOUTP VSS
    I1 (VOUTP VOUTN VDD VSS RDY) NAND2_comp
    M10 (VOUTN net16 VSS VSS) nmos w=inv_comp l=45n m=10
    M3 (net16 net9 VSS VSS) nmos w=latch_comp l=45n m=10
    M5 (net16 CLKC VSS VSS) nmos w=reset_comp l=45n m=5
    M4 (net9 CLKC VSS VSS) nmos w=reset_comp l=45n m=5
    M7 (VOUTP net9 VSS VSS) nmos w=inv_comp l=45n m=10
    M6 (net9 net16 VSS VSS) nmos w=latch_comp l=45n m=10
    M9 (VOUTN net16 VDD VDD) pmos w=26/9*inv_comp l=45n m=10
    M0 (net12 CLKC VDD VDD) pmos w=2*dif_pair l=45n m=10
    M2 (net16 VINN net12 VDD) pmos w=dif_pair l=45n m=5
    M1 (net9 VINP net12 VDD) pmos w=dif_pair l=45n m=5
    M8 (VOUTP net9 VDD VDD) pmos w=26/9*inv_comp l=45n m=10
ends comparator_p_schematic
// End of subcircuit definition.

// Library name: EE536b_backup_20190424
// Cell name: inverter
// View name: schematic
subckt EE536b_backup_20190424_inverter_schematic VDD VIN VOUT VSS
    M0 (VOUT VIN VSS VSS) nmos w=900n l=45n m=10
    M1 (VOUT VIN VDD VDD) pmos w=900n l=45n m=35
ends EE536b_backup_20190424_inverter_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: chip_core
// View name: schematic
subckt chip_core_schematic B\<0\> B\<1\> B\<2\> B\<3\> B\<4\> B\<5\> \
        B\<6\> B\<7\> Bbar\<0\> Bbar\<1\> Bbar\<2\> Bbar\<3\> Bbar\<4\> \
        Bbar\<5\> Bbar\<6\> Bbar\<7\> CLKC CLKS RDY V2DAC_N\<0\> \
        V2DAC_N\<1\> V2DAC_N\<2\> V2DAC_N\<3\> V2DAC_N\<4\> V2DAC_N\<5\> \
        V2DAC_N\<6\> V2DAC_N\<7\> V2DAC_P\<0\> V2DAC_P\<1\> V2DAC_P\<2\> \
        V2DAC_P\<3\> V2DAC_P\<4\> V2DAC_P\<5\> V2DAC_P\<6\> V2DAC_P\<7\> \
        VCMP_N VCMP_P VDD VIN_N VIN_P VREF VSH_N VSH_P VSS CLK\<0\> \
        CLK\<1\> CLK\<2\> CLK\<3\> CLK\<4\> CLK\<5\> CLK\<6\> CLK\<7\>
    I2 (B\<0\> B\<1\> B\<2\> B\<3\> B\<4\> B\<5\> B\<6\> B\<7\> Bbar\<0\> \
        Bbar\<1\> Bbar\<2\> Bbar\<3\> Bbar\<4\> Bbar\<5\> Bbar\<6\> \
        Bbar\<7\> CLKC CLKS VCMP_N VCMP_P RDY V2DAC_N\<0\> V2DAC_N\<1\> \
        V2DAC_N\<2\> V2DAC_N\<3\> V2DAC_N\<4\> V2DAC_N\<5\> V2DAC_N\<6\> \
        V2DAC_N\<7\> V2DAC_P\<0\> V2DAC_P\<1\> V2DAC_P\<2\> V2DAC_P\<3\> \
        V2DAC_P\<4\> V2DAC_P\<5\> V2DAC_P\<6\> V2DAC_P\<7\> VDD VREF VSS \
        CLK\<0\> CLK\<1\> CLK\<2\> CLK\<3\> CLK\<4\> CLK\<5\> CLK\<6\> \
        CLK\<7\>) SAR_logic_schematic
    I0 (CLKS CLKSbar VIN_N VIN_P VSH_N VSH_P V2DAC_N\<0\> V2DAC_N\<1\> \
        V2DAC_N\<2\> V2DAC_N\<3\> V2DAC_N\<4\> V2DAC_N\<5\> V2DAC_N\<6\> \
        V2DAC_N\<7\> V2DAC_P\<0\> V2DAC_P\<1\> V2DAC_P\<2\> V2DAC_P\<3\> \
        V2DAC_P\<4\> V2DAC_P\<5\> V2DAC_P\<6\> V2DAC_P\<7\> VDD VSS) \
        SH_schematic
    I1 (CLKC RDY VDD VSH_N VSH_P VCMP_N VCMP_P VSS) comparator_p_schematic
    I8 (VDD CLKS CLKSbar VSS) EE536b_backup_20190424_inverter_schematic
ends chip_core_schematic
// End of subcircuit definition.

// Library name: POSH_TI_SAR_Parameterized_1
// Cell name: tb_chip_core_2
// View name: schematic
I0 (B\<0\> B\<1\> B\<2\> B\<3\> B\<4\> B\<5\> B\<6\> B\<7\> Bbar\<0\> \
        Bbar\<1\> Bbar\<2\> Bbar\<3\> Bbar\<4\> Bbar\<5\> Bbar\<6\> \
        Bbar\<7\> CLKC CLKS RDY V2DAC_N\<0\> V2DAC_N\<1\> V2DAC_N\<2\> \
        V2DAC_N\<3\> V2DAC_N\<4\> V2DAC_N\<5\> V2DAC_N\<6\> V2DAC_N\<7\> \
        V2DAC_P\<0\> V2DAC_P\<1\> V2DAC_P\<2\> V2DAC_P\<3\> V2DAC_P\<4\> \
        V2DAC_P\<5\> V2DAC_P\<6\> V2DAC_P\<7\> VCMP_N VCMP_P VDD INN INP \
        net12 VSH_N VSH_P VSS CLK\<0\> CLK\<1\> CLK\<2\> CLK\<3\> CLK\<4\> \
        CLK\<5\> CLK\<6\> CLK\<7\>) chip_core_schematic
V7 (net02 0) vsource dc=1.1 type=dc
V5 (VSS 0) vsource dc=0 type=dc
V4 (VDD 0) vsource dc=1.1 type=dc
V0 (net12 0) vsource dc=1 type=dc
V3 (INP 0) vsource dc=550m type=sine ampl=500m freq=fin
V2 (INN 0) vsource dc=550m type=sine ampl=500m sinephase=180 freq=fin
V6 (net017 0) vsource dc=0 type=pulse val0=1.1 val1=0 delay=1/fs rise=100p \
        fall=100p
V1 (CLKS 0) vsource dc=550.00m type=pulse val0=0 val1=1.1 period=1/fs \
        delay=1/fs rise=100p fall=100p width=0.2*1/fs
I17\<0\> (CLKS B\<0\> OUTCODE\<0\> net015\<0\> net02 VSS net017) \
        DFF_reset_schematic
I17\<1\> (CLKS B\<1\> OUTCODE\<1\> net015\<1\> net02 VSS net017) \
        DFF_reset_schematic
I17\<2\> (CLKS B\<2\> OUTCODE\<2\> net015\<2\> net02 VSS net017) \
        DFF_reset_schematic
I17\<3\> (CLKS B\<3\> OUTCODE\<3\> net015\<3\> net02 VSS net017) \
        DFF_reset_schematic
I17\<4\> (CLKS B\<4\> OUTCODE\<4\> net015\<4\> net02 VSS net017) \
        DFF_reset_schematic
I17\<5\> (CLKS B\<5\> OUTCODE\<5\> net015\<5\> net02 VSS net017) \
        DFF_reset_schematic
I17\<6\> (CLKS B\<6\> OUTCODE\<6\> net015\<6\> net02 VSS net017) \
        DFF_reset_schematic
I17\<7\> (CLKS B\<7\> OUTCODE\<7\> net015\<7\> net02 VSS net017) \
        DFF_reset_schematic
I36 (OUTCODE\<0\> OUTCODE\<1\> OUTCODE\<2\> OUTCODE\<3\> OUTCODE\<4\> \
        OUTCODE\<5\> OUTCODE\<6\> OUTCODE\<7\> OUTVOLT) dac_8bit_ideal \
        vref=1 trise=1p tfall=1p vtrans=1.1/2
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
tran tran stop=28u errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save OUTVOLT 
saveOptions options save=allpub
ahdl_include "/home/Cadence/IC616/tools/dfII/samples/artist/ahdlLib/dac_8bit_ideal/veriloga/veriloga.va"
